Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Tachycardia
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ hx Stage IIB T2N1M0? pancreatic adenocarcinoma s/p 3 cycles 
chemotx seeking second opinion for further therapy including RTx 
at ___, pAF and PE on Lovenox, p/w AFib with RVR.  

He was scheduled to have an EGD by ___ team for further workup 
of pancreatic cancer, to evaluate for metastatic disease. Per 
report, patient developed AFib with RVR and was given 10mg IV 
Lopressor as well as 25mg IV diltiazem, and was sent to the ED. 
At this time, there is no EGD or GI report in OMR.  

-In the ED initial vitals were: 98 144 131/80 18 99% RA  
- EKG: AFib with RVR. CXR with low lung volumes w/atelectasis 
and mediastinal LAD.  
- Labs/studies notable for: H/H 11.8/35.2, otherwise 
unremarkable, negative trop, negative UA  
- Patient was given: 1L NS, Dilt IV 20mg, 20mg, 30mg with Dilt 
PO 30mg x2 (infusion ordered, never administered per patient), 
Zofran 4mg, Oxycodone 5mg x1, 10mg x2, Lorazepam 0.5mg PO, and 
Propafenone ___ x1.  
- Vitals on transfer: 98.5 84 119/55 19 100% RA.
 
On the floor, patient is comfortable, conversant, in no acute 
distress. Per tele and clinical exam as below, he has flipped 
into NSR. Patient recounts that in the endoscopy suite his HR 
was found to be irregular and elevated on route check; this 
happens occasionally on the third day after getting chemotherapy 
as well. He felt some palpitations but otherwise well. He was 
taken to the ED with the interventions as above. He denies CP, 
SOB, cough, ___ edema, palpitations at this time.
 
Past Medical History:
- HTN  
- HLD  
- pAF  
- Pulmonary embolism   
- s/p bilateral knee/meniscus surgeries
 
Social History:
___
Family History:
Mother died of pancreatic cancer at age ___. Maternal GM died of 
colon cancer. Father died of lung cancer at an advanced age 
(smoker). Two sisters with multiple medical problems, who have 
passed away, neither had known malignancy. Reportedly has had 
genetic work-up through Dr. ___ of results but was 
told daughter has a 50% chance of pancreatic cancer.
 
Physical Exam:
Admission Physical Exam:
VS: T=97.6 BP=109/60 HR=71 RR=18 O2 sat=100%RA  
GENERAL: WDWN M in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 6 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Normal rate and rhythm, no r/g/m. No thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.

Discharge Physical Exam:
VS: 97.6 109-110/60-66 67-71 ___ 100%RA 
Tele: Sinus
Wt 100.5
I/O 60/950
GENERAL:  Very pleasant man, WDWN, NAD
HEENT: Sclerae anicteric, PERRL, EOMI. MMM.
NECK: Supple, JVP not elevated.  
CARDIAC: RRR, no murmurs, no thrills/heaves, nondisplaced PMI. 
LUNGS: CTAB, no crackles/wheezes/rhonchi.  
ABDOMEN: Soft, NTND, NABS. No HSM or tenderness.  
EXTREMITIES: No c/c/e, WWP.
 
Pertinent Results:
===============
Admission Labs:
===============
___ 12:00PM BLOOD WBC-4.7 RBC-3.72* Hgb-11.7* Hct-34.8* 
MCV-94 MCH-31.5 MCHC-33.6 RDW-16.0* RDWSD-54.8* Plt ___
___ 02:00PM BLOOD Neuts-80.5* Lymphs-14.4* Monos-2.7* 
Eos-1.2 Baso-0.5 Im ___ AbsNeut-4.53 AbsLymp-0.81* 
AbsMono-0.15* AbsEos-0.07 AbsBaso-0.03
___ 02:00PM BLOOD ___ PTT-31.3 ___
___ 02:00PM BLOOD Glucose-102* UreaN-11 Creat-0.6 Na-136 
K-4.3 Cl-103 HCO3-22 AnGap-15
___ 02:00PM BLOOD ALT-74* AST-31 AlkPhos-68 TotBili-1.7*
___ 02:00PM BLOOD Lipase-8
___ 02:00PM BLOOD cTropnT-<0.01
___ 02:00PM BLOOD Albumin-4.0 Calcium-8.6 Phos-3.4 Mg-2.0

===============
Discharge Labs:
===============
___ 05:45AM BLOOD WBC-4.3 RBC-3.41* Hgb-10.6* Hct-32.1* 
MCV-94 MCH-31.1 MCHC-33.0 RDW-16.0* RDWSD-54.4* Plt ___
___ 05:45AM BLOOD Glucose-97 UreaN-11 Creat-0.8 Na-138 
K-4.6 Cl-106 HCO3-27 AnGap-10
___ 05:45AM BLOOD ALT-66* AST-30 AlkPhos-60 TotBili-1.2
___ 05:45AM BLOOD Albumin-3.8 Calcium-8.7 Phos-3.7 Mg-2.1

========
Imaging:
========
CXR ___
Low lung volumes with minimal atelectasis in the lung bases.  
Mediastinal
lymphadenopathy, better assessed on the previous CT.

=============
Microbiology:
=============
___ Urine Culture - <10,000 organisms/ml
 
Brief Hospital Course:
___ yo M with h/o pancreatic cancer, BPH, paroxysmal atrial 
fibrillation, presented to ED after developing afib with RVR not 
responsive to IV rate control while undergoing upper endoscopy. 
Patient was given diltiazem and propafenone for rate control in 
ED and converted to normal sinus rhythm prior to being moved to 
the floor. He was monitored on telemetry and remained in sinus 
rhythm. He was given PO diltiazem for rate control and 
transitioned back to home metoprolol prior to discharge. Lovenox 
was increased to 60mg BID for therapeutic anticoagulation. He 
will follow up with PCP and reschedule EGD with GI.

====================
TRANSITIONAL ISSUES:
====================
- Lovenox dose changed from 100mg daily to 60mg BID, for more 
even dosing. Patient instructed to follow-up with Oncology and 
PCP to determine accurate dosing. Would recommend 1 mg/kg dosing 
given paroxysmal afib and history of PE. Please adjust if 
necessary or consider changing to warfarin.
- Please reschedule endoscopy.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enoxaparin Sodium 100 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
2. Creon 12 2 CAP PO TID W/MEALS 
3. Lorazepam 0.5 mg PO QHS:PRN anxiety, insomnia 
4. Metoprolol Tartrate 25 mg PO BID 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
6. Tamsulosin 0.4 mg PO DAILY 
7. Propafenone HCl 300 mg PO ONCE:PRN atrial fibrillation
 
Discharge Medications:
1. Creon 12 2 CAP PO TID W/MEALS 
2. Lorazepam 0.5 mg PO QHS:PRN anxiety, insomnia 
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
4. Tamsulosin 0.4 mg PO DAILY 
5. Metoprolol Tartrate 25 mg PO BID 
6. Propafenone HCl 300 mg PO ONCE:PRN atrial fibrillation 
7. Enoxaparin Sodium 60 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 60 mg/0.6 mL Take 60 mg SC twice daily Disp #*60 
Syringe Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Atrial fibrillation with rapid ventricular response

Secondary
Pancreatic cancer
Benign prostatic hypertrophy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you developed atrial 
fibrillation with rapid ventricular response (afib with RVR) 
during your endoscopy procedure. You were given medications to 
slow your heart rate and it returned to a normal rhythm. 

Given that you have had recent atrial fibrillation, you should 
increase your lovenox to twice daily. Please discuss this 
further with your PCP and ___. Otherwise please continue 
to take your usual medications and follow up with your PCP and 
oncologist.

It was a pleasure taking care of you during your stay in the 
hospital.

 - Your ___ Team
 
Followup Instructions:
___